US04929634
Preparation of 5-(p-chlorophenyl)pyrrole-2,4-dicarbonitrile
A sample of 2-p-chlorophenyl-3-cyanopyrrole, prepared by the method of Example 4, (3.0 g, 0.015 mole) is dissolved in 50 mL of dry dimethoxyethane. To this solution is added chlorosulfonyl isocyanate (3.39 g, 0.024 mole). The addition is exothermic and some cooling is necessary. After stirring 3 hours at room temperature, dimethylformamide (6-7 mL) is added and the solution is stirred 4 hours more. The solution is then poured into water precipitating a white solid (3.4 g, 100%). A sample (1.0 g) is purified by dissolving in ethyl acetate and then passing the solution through a 60 mL course filter funnel packed with silica gel. The filtrate is concentrated to yield 0.7 g of a white solid with m.p. 235°-240° C.

reactant | 2-p-chlorophenyl-3-cyanopyrrole | ClC1=CC=C(C=C1)C=1NC=CC1C#N | C11H7ClN2
reactant | chlorosulfonyl isocyanate | 0.024 mole, 3.39 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 6-7 mL | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | dimethoxyethane | 50 mL | C(OC)COC | C4H10O2
product | 5-(p-chlorophenyl)pyrrole-2,4-dicarbonitrile | 0.7 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C#N)C#N | C12H6ClN3
